2176-01-01 20:19:00 Physician Attending Progress Note
Chief Complaint: seizure, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   34M presented today with cough and vomiting x 5 days. In [**Company 71**] vitals
   stable other than HR 120's. Sent to ER.
   In ER, afebrile, had seizure then was agitated and intubated. Given
   vanco, CTX and acyclovir. Head CT unremarkable. Paralyzed for LP,
   opening pressure > 36, fluid clear.
   History obtained from housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Unknown;
   Thiamine
   tongue swelling
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   HTN
   ETOH abuse, withdrawal admissions
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Gastrointestinal: Emesis
   Flowsheet Data as of  [**2176-1-1**] 08:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 86 (86 - 100) bpm
   BP: 142/91(103) {142/89(102) - 143/91(103)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
             6,108 mL
   PO:
             TF:
   IVF:
   108 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    800 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   57
   125
   0.9
   28
   3.4
   10
   95
   139
   41
   6
        [image002.jpg]
   Other labs: PT / PTT / INR://1.1, Differential-Neuts:71, Lactic
   Acid:2.7, Mg++:1.4, PO4:1.0
   Fluid analysis / Other labs: EtOH negative
   WBC prot 48 gluc 98 WBC 0 RBC 0
   Imaging: CXR ETT OK, unremarkable
   Microbiology: blood and CSF pending
   ECG: ST 97, no ischemia, normal intervals
   Assessment and Plan
   seizure, agitation, respiratory failure - suspect alcohol withdrawal,
   continue versed and wean slowly, continue thiamine, folate
   cough - likely viral respiratory infection, await flu studies though no
   indication for treatment (not related to intubation)
   alcohol abuse - on versed, wean and hopefully extubate within 24 hours
   thrombocytopenia - at baseline, follow
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-1-1**] 06:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2176-01-02 07:00:00 Physician Resident Progress Note
Chief Complaint: ETOH withdrawal
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2176-1-1**] 06:00 PM
   lp done in ED
 INVASIVE VENTILATION - START [**2176-1-1**] 06:00 PM
   Drug rash
   d/c-ed abx given WBC of 0 in LP
   Allergies:
   Codeine
   Unknown;
   Thiamine
   tongue swelling
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 96 (86 - 109) bpm
   BP: 104/76(83) {104/61(72) - 143/91(103)} mmHg
   RR: 35 (13 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  6,488 mL
                                                                    421 mL
   PO:
             TF:
   IVF:
                                                                    398 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    635 mL
   Urine:
                                                                    295 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,393 mL
                                                                   -214 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/40/358/28/5
   Ve: 9.2 L/min
   PaO2 / FiO2: 895
   Physical Examination
   Gen: Intubated, sedated, arousable to voice
   Lungs: CTAB on anterior exam.
   CV: RRR. No murmurs.
   Abdomen: Soft, NT, ND. No masses.
   Extremities: WWP. No LE edema.
   Neuro: Arousable to voice. Following commands.
   Labs / Radiology
   47 K/uL
   11.8 g/dL
   87 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.1 mEq/L
   4 mg/dL
   104 mEq/L
   141 mEq/L
   37.4 %
   5.5 K/uL
        [image002.jpg]
                            [**2176-1-1**]  08:19 PM
                            [**2176-1-2**]  05:31 AM
   WBC
   5.5
   Hct
   37.4
   Plt
   47
   Cr
   0.7
   TCO2
   30
   Glucose
   87
   Other labs: PT / PTT / INR:12.9/23.9/1.1, ALT / AST:66/148, Alk Phos /
   T Bili:75/1.6, LDH:273 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   34 yo M with a history of Etoh abuse and withdrawal who presented with
   cough, vomiting, and seized in the ED, concerning for ETOH withdrawal.
   #  Altered mental status: Alcohol level negative per serum tox.
   However, it is possible that patient stopped drinking [**3-13**] influenza
   like illness, and as a result is withdrawing. CT head negative. Patient
   currently intubated and sedated for airway protection, but no focal
   neurologic deficits. Concern for meningitis as patient was febrile with
   altered mental status. Thus he was treated for both bacterial and viral
   meningitis. LP cultures pending, but cell count notable for WBC of 0.
   -f/u LP cultures
   -add on cryptococcal Ag onto LP cultures given high opening pressures
   -discontinue Vancomycin, Ceftriaxone, and Acyclovir
   -titrate versed gtt
plan for extubation today
   -treat alcohol withdrawal with po valium
   -thiamine, folate, and B12 po daily
   -f/u neurology recs
   -check hep C viral load
   .
   .
   # Influenza like illness: Patient complained of 5 days of cough and
   vomiting. Unable to take pos. Differential is broad, including H1N1,
   viral upper repiratory infection, gastroenteritis. CXR shows no obvious
   infiltrates.
   -f/u influenza Ag -pending
   -continue tamiflu empirically
   -f/u blood and urine cultures
   -droplet precautions
   -consider work up for HIV once extubated
   .
   # HTN: Patient currently hypertensive, likely secondary to withdrawal.
   -restart outpatient amlodipine this AM
   .
   # Thrombocytopenia: Plts 57. Likely [**3-13**] marrow suppression from Etoh
   abuse. Platelets in the 40s during last admission. Not actively
   bleeding.
   -continue to monitor.
   -No heparin
   -consider work up for HIV once extubated
   .
   # FEN: IVFs / replete lytes prn -replete phos / NPO
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV  x2
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-1-1**] 06:51 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-01-02 09:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   34 y/o with h/o ETOH w/d and HTN presented to his PMD with flu-like
   symptoms, dehydration, and tremulousness (denies drinking, but concern
   in note raised over ETOH withdrawal).  Sent to ED where he had a sz and
   was intubated for violent post-ictal state.  Placed on propofol and
   versed gtts. Head CT and CXR unremarable. LP done in ED and started on
   vanc/ctx/acyclovir. Placed on flu precautions and started on Tamiflu.
   Normotensive. Sent to ICU.
   24 Hour Events:
   - LP opening pressure above 36
   - Neurology consult
   - Vanc/Ctx/Acyclovir d/c'ed overnight [**3-13**] bland LP and drug rash
   Allergies:
   Codeine
   Unknown;
   Thiamine
   tongue swelling
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-1-2**] 09:00 AM
   Other medications:
   Tamiflu, colace/senna, tylenol, banana bag
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-2**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 109 (86 - 109) bpm
   BP: 142/92(102) {104/61(72) - 143/96(107)} mmHg
   RR: 20 (13 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  6,488 mL
                                                                    674 mL
   PO:
             TF:
   IVF:
                                                                    398 mL
                                                                    584 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    895 mL
   Urine:
                                                                    295 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,393 mL
                                                                   -221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/40/358/28/5
   Ve: 9 L/min
   PaO2 / FiO2: 895
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   47 K/uL
   87 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.1 mEq/L
   4 mg/dL
   104 mEq/L
   141 mEq/L
   37.4 %
   5.5 K/uL
        [image002.jpg]
                            [**2176-1-1**]  08:19 PM
                            [**2176-1-2**]  05:31 AM
   WBC
   5.5
   Hct
   37.4
   Plt
   47
   Cr
   0.7
   TCO2
   30
   Glucose
   87
   Other labs: PT / PTT / INR:12.9/23.9/1.1, ALT / AST:66/148, Alk Phos /
   T Bili:75/1.6, LDH:273 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Imaging: CT head - unremarkable; CXR - Possible LLL opacity. ET tube,
   NG tube in place.
   Microbiology: Blood / urine pending. CSF gram stain negative; culture
   pending.
   Assessment and Plan
   34 y/o with h/o ETOH w/d and HTN presented to his PMD with flu-like
   symptoms, dehydration, and tremulousness. Intubated after witnessed
   seizure in the ED.
   #  Altered mental status: Alcohol level negative per serum tox.
   However, it is possible that patient stopped drinking [**3-13**] influenza
   like illness, and as a result is withdrawing. CT head negative. Patient
   currently intubated and sedated for airway protection, but no focal
   neurologic deficits. Concern for meningitis as patient was febrile with
   altered mental status. Thus he was treated for both bacterial and viral
   meningitis. LP cultures pending, but cell count notable for WBC of 0.
   -f/u LP cultures
   -discontinue Vancomycin, Ceftriaxone, and Acyclovir
   -continue Acyclovir
   -continue versed gtt
titrate to keep HR<100, SBP<140
   -thiamine, folate, and B12 po daily
   -f/u neurology recs
   -wean vent settings to keep O2 sat> 90%
   # Influenza like illness: Patient complained of 5 days of cough and
   vomiting. Unable to take pos. Differential is broad, including H1N1,
   viral upper repiratory infection, gastroenteritis. CXR shows no bvious
   infiltrates.
   -f/u influena Ag -pending
   -continue tamiflu empirically
   -f/u blood and urine cultures
   -droplet precautions
   -consider work up for HIV
   # HTN: Patient currently normotensive. Hold antihypertensives for now
   given large amounts of sedation.
   # Thrombocytopenia: Plts 57. Likely [**3-13**] marrow suppression from Etoh
   abuse. Platelets in the 40s during last admission. Not actively
   bleeding.
   -continue to monitor.
   -No heparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-1-1**] 06:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2176-01-03 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - episode of vomitting overnight, got one dose of IV valium
   - total of 120 mg valium since yesterday, but withdrawl symptoms
   improving, no benzo since 330 this am
 INVASIVE VENTILATION - STOP [**2176-1-2**] 12:05 PM
 MAGNETIC RESONANCE IMAGING - At [**2176-1-3**] 01:00 AM
   head
   Allergies:
   Codeine
   Unknown;
   Thiamine
   tongue swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-1-2**] 09:00 AM
   Diazepam (Valium) - [**2176-1-2**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-3**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 88 (82 - 127) bpm
   BP: 148/70(87) {109/63(75) - 170/122(127)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  3,247 mL
                                                                    480 mL
   PO:
                                                                  1,520 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,587 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    610 mL
   Urine:
                                                                  2,170 mL
                                                                    610 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,047 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 521 (521 - 521) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: ///28/
   Ve: 10.2 L/min
   Physical Examination
   Gen: tremulous, awake and alert
   Lungs: CTAB on anterior exam.
   CV: RRR. No murmurs.
   Abdomen: Soft, NT, ND. No masses.
   Extremities: WWP. No LE edema.
   Neuro: Arousable to voice. Following commands.
   Labs / Radiology
   47 K/uL
   12.3 g/dL
   96 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.1 mEq/L
   6 mg/dL
   103 mEq/L
   139 mEq/L
   38.2 %
   6.5 K/uL
        [image002.jpg]
                            [**2176-1-1**]  08:19 PM
                            [**2176-1-2**]  05:31 AM
                            [**2176-1-3**]  03:25 AM
   WBC
   5.5
   6.5
   Hct
   37.4
   38.2
   Plt
   47
   47
   Cr
   0.7
   0.7
   TCO2
   30
   Glucose
   87
   96
   Other labs: PT / PTT / INR:12.5/23.9/1.1, ALT / AST:77/173, Alk Phos /
   T Bili:85/1.6, Albumin:3.8 g/dL, LDH:273 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   34 yo M with a history of Etoh abuse and withdrawal who presented with
   cough, vomiting, and seized in the ED, concerning for ETOH withdrawal.
   #  Altered mental status
 s/p seizure likely secondary to withdrawl:
   Alcohol level negative per serum tox. However, it is possible that
   patient stopped drinking [**3-13**] influenza like illness, and as a result is
   withdrawing. CT head negative.  Pt successfully intubated.  Has severe
   withdrawl symptoms overnight.  Girlfriend [**Name (NI) 10150**] that pt was
   drinking and last drink was Saturday.
   - decreased valium requirement, can change to q4hr, continue CIWA
   - MRI negative for foci of seizure
   - EEG pending
   - neurology following along
   .
   # Elevated opening pressure on LP:  unclear etiology; no evidence of
   meningitis, cryptococcal ag negative.  Will likely continue to follow
   clinically and only repeat LP if mental status changes.
   - f/u cryptococcal culture
   - consider HIV test on the floor, could not be consented yesterday due
   to AMS
   .
   .
   # Influenza like illness: Patient complained of 5 days of cough and
   vomiting. Unable to take pos. Differential is broad, including H1N1,
   viral upper repiratory infection, gastroenteritis. CXR shows no obvious
   infiltrates.
   -f/u influenza Ag -pending
   -continue tamiflu empirically
   -f/u blood and urine cultures
   -droplet precautions
   -consider work up for HIV once extubated
   .
   # HTN: Patient currently hypertensive, likely secondary to withdrawal.
   -restart outpatient amlodipine this AM
   .
   # Thrombocytopenia: Plts 57. Likely [**3-13**] marrow suppression from Etoh
   abuse. Platelets in the 40s during last admission. Not actively
   bleeding.
   -continue to monitor.
   -No heparin
   -consider work up for HIV once extubated
   .
   # FEN: IVFs / replete lytes prn -replete phos / NPO
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV  x2
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-1-1**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-01-03 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Extubated
   - Valium 120mg since extubation
   - Tm 100.4
   - Desatted with snoring overnight - ?OSA
   - MRI head overnight
   Allergies:
   Codeine
   Unknown;
   Thiamine
   tongue swelling
   Last dose of Antibiotics:
   Tamiflu - [**2176-1-3**] 09:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2176-1-2**] 08:15 PM
   Pantoprazole (Protonix) - [**2176-1-3**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-3**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.5
   HR: 86 (77 - 127) bpm
   BP: 144/84(110) {120/63(77) - 170/111(118)} mmHg
   RR: 20 (19 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  3,247 mL
                                                                    610 mL
   PO:
                                                                  1,520 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,587 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    890 mL
   Urine:
                                                                  2,170 mL
                                                                    890 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,047 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 521 (521 - 521) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///28/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   47 K/uL
   96 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.1 mEq/L
   6 mg/dL
   103 mEq/L
   139 mEq/L
   38.2 %
   6.5 K/uL
        [image002.jpg]
                            [**2176-1-1**]  08:19 PM
                            [**2176-1-2**]  05:31 AM
                            [**2176-1-3**]  03:25 AM
   WBC
   5.5
   6.5
   Hct
   37.4
   38.2
   Plt
   47
   47
   Cr
   0.7
   0.7
   TCO2
   30
   Glucose
   87
   96
   Other labs: PT / PTT / INR:12.5/23.9/1.1, ALT / AST:77/173, Alk Phos /
   T Bili:85/1.6, Albumin:3.8 g/dL, LDH:273 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Imaging: Head MRI
 suboptimal study; no seizure foci identified;
   air-fluid levels in sinuses
   Microbiology: No new micro results.
   Assessment and Plan
   34 y/o with h/o ETOH w/d and HTN presented to his PMD with flu-like
   symptoms, dehydration, and tremulousness. Intubated after witnessed
   seizure in the ED.
   # Seizure: Likely [**3-13**] ETOH withdrawal.  H/o abuse in past with negative
   level in ED (possibly stopped drinking in the setting of viral
   illness).  CT head negative. LP bland.
   - F/U neurology consult
 MRI done, EEG this am
   - F/U CSF cultures
   - Consent for HIV once awake
   # ETOH abuse: Likely in active withdrawal
   - Space ativan to q4hours PO
   - Thiamine/Folate/MV
   # Respiratory symtoms: Likely related to viral syndrome. [**Month (only) 8**] have LLL
   process.
   - Continue tamiflu; droplet precautions; f/u flu antigen
   - Will need outpt eval for OSA
   # HTN: Hypertensive, likely [**3-13**] holding home medications, withdrawal,
   and agitation on vent.
   - Restart home meds
   - CIWA
   # Elevated LFTs/thrombocytopenia: Likely [**3-13**] ETOH abuse.
   - F/U hepatitis serologies
   - Trend LFTs
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-1-1**] 06:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes